US05281612
A suspension of 0.81 g (3.0 mmole) of 7-chloro-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-1,8 -naphthyridine-3-carboxylic acid, 0.9 g (9.0 mmole) of N-methyl-3-azetidinemethanamine and 30 mL of acetonitrile was refluxed for six hours. The reaction was cooled to 5° C. The filtered solids were washed with acetonitrile, ether, and dried in vacuo. The dried solid was suspended in 70 mL of water and made basic to pH 11.0 after filtering through a fiber glass pad to clarify, the filtrate was acidified to pH 7.4 with 1.0M hydrochloric acid. The resulting precipitate was removed by filtration, washed successively with water, 2-propanol, ether and dried in vacuo to give 270 mg of 1-ethyl-6-fluoro-1,4-dihydro-7-[3-[(methylamino)methyl]-1-azetidinyl]-4-oxo-1,8 -naphthyridine-3-carboxylic acid, mp 180°-182° C.

reactant | 7-chloro-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-1,8 -naphthyridine-3-carboxylic acid | 3.0 mmole, 0.81 g | ClC1=C(C=C2C(C(=CN(C2=N1)CC)C(=O)O)=O)F | C11H8ClFN2O3
reactant | N-methyl-3-azetidinemethanamine | 9.0 mmole, 0.9 g | CNCC1CNC1 | C5H12N2
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | 1-ethyl-6-fluoro-1,4-dihydro-7-[3-[(methylamino)methyl]-1-azetidinyl]-4-oxo-1,8 -naphthyridine-3-carboxylic acid | 270 mg | C(C)N1C=C(C(C2=CC(=C(N=C12)N1CC(C1)CNC)F)=O)C(=O)O | C16H19FN4O3
